Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin
 
Attending: ___.
 
Chief Complaint:
dog bite
 
Major Surgical or Invasive Procedure:
I+D R index finger at bedside on ___
 
History of Present Illness:
___ bitten by dog 6 days ago.  She was transferred from OSH wher 
eshe presented on ___.  She received 
clindamycin/vancomycin/flagyl and sent to ___ for hand surgery 
consult.  Patient felt ill approx 72hrs ago with chills and 
mailaise.  She did not have SIRS in ED and underwent I+D of R 
second finger felon at bedside.  She received 
ampicillin/sulbactam and vancomycin.  ED exam notable for R 
second finger edenma/erythema, 6 bite marks, purulent exudate, 
tender along flexor retinaculum to A1 pulley wiht reduced ROM 
and decreased sensation.  

When I met her, she reported her primary concern was to be able 
to go out and smoke.  She reported severe pain in her L hand and 
___ digit, ___.  Throbbing.
 
Past Medical History:
h/o "colitis, crohn's" and diverticulitis
s/p colostomy that has been reveresed
past back and neck injury not requiring surgery following MVC
anxiety
 
Social History:
___
Family History:
not pertinent to current admit
 
Physical Exam:
avss
calm
L hand is covered by bandage and ace WRAP
cap refill intact to distal L index finger
given recent I+D in ED and plan for hand surgery to re-examine, 
I did not uncover her dressing

hand dressed, cap refill and sensation intact
 
Pertinent Results:
___ 04:35AM BLOOD WBC-7.5 RBC-3.08* Hgb-10.0* Hct-29.8* 
MCV-97 MCH-32.5* MCHC-33.6 RDW-12.0 RDWSD-42.1 Plt ___
___ 04:35AM BLOOD Neuts-54.2 ___ Monos-8.3 Eos-1.7 
Baso-0.7 Im ___ AbsNeut-4.03 AbsLymp-2.58 AbsMono-0.62 
AbsEos-0.13 AbsBaso-0.05
___ 04:35AM BLOOD Glucose-99 UreaN-24* Creat-0.7 Na-139 
K-4.2 Cl-107 HCO3-22 AnGap-___ who suffered dog bite wound to R hand and digits which 
resulted in abscess to pulp of ___ digit requiring I+D in ED as 
well as hand cellulitis and signs of early tenosynovitis.   Her 
wound is growing pastruella and staph aureus.  She was given 
wound care instructions.  She received vanco and unasyn and will 
be discharged on augmentin and bactrim.  She will have f/u in 
hand surgery clinic.  Her pharmacy said she had filled rx for 
oxycodone 5mg on ___ and thus I did not given her any opiate Rx 
on discharge. She can take ibuprofen for pain.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 1 mg PO BID:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right index finger infection s/p dog bite 

 
Discharge Condition:
x
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
HAND-FINGER INFECTION:
Followup Instructions:
___